US07642264B2
Trifluoro-methanesulfonic acid 6-methyl-4-(4-trifluoromethoxy-phenyl)-pyridin-2-yl ester
The title compound was prepared from the above described 6-methyl-4-(4-trifluoromethoxy-phenyl)-1H-pyridin-2-one (3.23 g, 12 mmol), diisopropylethylamine (4.1 ml, 24 mmol) and trifluoromethanesulfonic anhydride (2.4 mL, 14 mmol) according to the general procedure Ia to d preparation of triflates. Obtained as a light brown oil (4.47 g, 93%). MS (ISP) 402.2 [(M+H)+].

reactant | 6-methyl-4-(4-trifluoromethoxy-phenyl)-1H-pyridin-2-one | 12 mmol, 3.23 g | CC1=CC(=CC(N1)=O)C1=CC=C(C=C1)OC(F)(F)F | C13H10F3NO2
reactant | diisopropylethylamine | 24 mmol, 4.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 14 mmol, 2.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 6-methyl-4-(4-trifluoromethoxy-phenyl)-pyridin-2-yl ester | CC1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C14H9F6NO4S
